US06156700
Preparation of 5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-acetic acid
A mixture of ethyl 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-acetate (0.600 g), 10% hydrochloric acid (20.0 mL), and 1,2-dichloroethane (2.00 mL) is boiled for 30 minutes while allowing the 1,2-dichloroethane to evaporate, cooled, and poured onto ice. The resultant aqueous mixture is filtered to obtain a solid. The solid is washed with water and air-dried to give the title product as a white solid (0.550 g, mp 240-242° C.).

reactant | ethyl 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-acetate | 0.600 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)CC(=O)OCC)C1)=O | C17H14F3N3O4S
reactant | hydrochloric acid | 20.0 mL | Cl | ClH
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 2.00 mL | ClCCCl | C2H4Cl2
product | 5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-acetic acid | 0.550 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)CC(=O)O)C1)=O | C15H10F3N3O4S
